US07071189B2
2-(2-difluoromethyl-5-hydroxybenzimidazol-1-yl)-4,6-dimorpholinopyrimidine (compound 40)
In accordance with the procedure of the Example 1 except that 2-difluoromethylbenzimidazole in (1) of the Example 1 was replaced by 2-difluoromethyl-5-tert-butyldimethylsilyloxybenzimidazole, obtained was 2-(2-difluoromethyl-5-tert-butyldimethylsilyloxybenzimidazol-1-yl)-4,6-dimorpholinopyrimidine. 0.55 g (1.0 mmol) of the obtained compound dissolved in THF (10 ml) was added with a solution of tetrabutylammoniumfluoride (1 M) in THF (2 ml) and stirred at room temperature for 30 minutes. The reaction solution was poured into water and extracted with ethyl acetate. The separated organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography to obtain 0.40 g (yield: 93%) of the titled compound as colorless crystals.

reactant | 2-difluoromethylbenzimidazole | FC(C=1NC2=C(N1)C=CC=C2)F | C8H6F2N2
reactant | 2-difluoromethyl-5-tert-butyldimethylsilyloxybenzimidazole | FC(C=1NC2=C(N1)C=CC(=C2)O[Si](C)(C)C(C)(C)C)F | C14H20F2N2OSi
reactant | 2-(2-difluoromethyl-5-tert-butyldimethylsilyloxybenzimidazol-1-yl)-4,6-dimorpholinopyrimidine | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N1CCOCC1)N1CCOCC1)C=CC(=C2)O[Si](C)(C)C(C)(C)C)F | C26H36F2N6O3Si
reactant | tetrabutylammoniumfluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-difluoromethyl-5-hydroxybenzimidazol-1-yl)-4,6-dimorpholinopyrimidine | 0.40 g, yield: 93% | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N1CCOCC1)N1CCOCC1)C=CC(=C2)O)F | C20H22F2N6O3
